* C:\users\igorwolfs\Favorites\simulations\power_circuitry.asc
XMu_L Vs N005 N006 irfz44n
XMu_U N001 N003 Vs irfz44n
Vu_U PWM1 0 PWL REPEAT FOREVER ((0 3.3) (19.9u 3.3) (20u 0) (59.9u 0) (60u 3.3)) ENDREPEAT
D1 N002 Vb 1N5819
C1 Vb Vs 4.7µ
Vu_U1 NSD1 0 PWL REPEAT FOREVER ((0 3.3) (19.9u 3.3) (20u 0) (29.9u 0) (30u 3.3) (49.99u 3.3) (50u 0) (59.99u 0) (60u 3.3)) ENDREPEAT
R1 N004 Vs 10
L1 N004 0 100µ
Cdecoupling VOUT 0 4.7µ
XU2 LO1 HO1 0 PWM1 VOUT Vb Vs NSD1 IR2104
C2 N001 0 10n Rser=1
C3 Vs 0 10n Rser=1
C4 N006 0 10n Rser=1
L4 N001 VBAT 5n
L5 0 N006 5n
R4 N003 HO1 50
R7 N005 LO1 50
R2 N002 VOUT 10
XMu_L1 Vs N011 N012 irfz44n
XMu_U1 N007 N009 Vs irfz44n
Vu_U2 PWM2 0 PWL REPEAT FOREVER ((0 0) (19.9u 0) (20u 3.3) (39.99u 3.3) (40u 0) (60.0u 0)) ENDREPEAT
D2 N008 Vb 1N5819
C5 Vb Vs 4.7µ
Vu_U3 NSD2 0 PWL REPEAT FOREVER ((0 3.3) (9.99u 3.3) (10u 0) (19.99u 0) (20u 3.3) (39.99u 3.3) (40u 0) (49.99u 0) (50u 3.3) (60.0u 3.3)) ENDREPEAT
R3 N010 Vs 10
L2 N010 0 100µ
Cdecoupling1 VOUT 0 4.7µ
XU1 LO2 HO2 0 PWM2 VOUT Vb Vs NSD2 IR2104
C6 N007 0 10n Rser=1
C7 Vs 0 10n Rser=1
C8 N012 0 10n Rser=1
L3 N007 VBAT 5n
L6 0 N012 5n
R5 N009 HO2 50
R6 N011 LO2 50
R8 N008 VOUT 10
XMu_L2 Vs N017 N018 irfz44n
XMu_U2 N013 N015 Vs irfz44n
Vu_U4 PWM3 0 PWL REPEAT FOREVER ((0 0) (39.99u 0) (40u 3.3) (59.99u 3.3) (60u 0)) ENDREPEAT
D3 N014 Vb 1N5819
C9 Vb Vs 4.7µ
Vu_U5 NSD3 0 PWL REPEAT FOREVER ((0 0) (9.9u 0) (10u 3.3) (29.9u 3.3) (30u 0) (39.9u 0) (40u 3.3) (59.99u 3.3) (60u 0)) ENDREPEAT
R9 N016 Vs 10
L7 N016 0 100µ
Cdecoupling2 VOUT 0 4.7µ
XU3 LO3 HO3 0 PWM3 VOUT Vb Vs NSD3 IR2104
C10 N013 0 10n Rser=1
C11 Vs 0 10n Rser=1
C12 N018 0 10n Rser=1
L8 N013 VBAT 5n
L9 0 N018 5n
R10 N015 HO3 50
R11 N017 LO3 50
R12 N014 VOUT 10
V7 VBAT 0 16 Rser=0.3
R13 VBAT swc 0.33
C13 ct 0 788p
D4 0 swe 1N5819
R14 VOUT cinv 3.9k
R15 cinv 0 1k
C14 VOUT 0 100µ Rser=0.0 IC=0
C15 VBAT 0 220µ Rser=0.1 IC=25
XU4 swc swe ct 0 cinv VBAT swc swc MC34063
L10 swe VOUT 100µ Rser=0
.model D D
.lib C:\users\igorwolfs\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 10ms 0 10u
.lib irfz44n.spi
.lib IR2104.lib
.inc MC34063.lib
.options Gmin=1e-9  method=Gear
.lib C:\users\igorwolfs\My Documents\Personal\Projects\kicad_projects\bldc\simulations\spice_libs\IR2104.lib
.lib C:\users\igorwolfs\My Documents\Personal\Projects\kicad_projects\bldc\simulations\spice_libs\mc34063.lib
.backanno
.end
